US09284317B2
Preparation of N-{3-[4-(cyclopropylcarbamoyl)phenyl]-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-6-yl}pyridine-2-carboxamide
To a solution of 100 mg (0.23 mmol) 4-{6-bromo-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}-N-cyclopropylbenzamide in 2 mL toluene were added 88 mg (0.7 mmol) pyridine-2-carboxamide, 76 mg (0.23 mmol) caesium carbonate, 8.4 mg (0.01 mmol) 1E,4E)-1,5-diphenylpenta-1,4-dien-3-one-palladium (3:2) and 10.8 mg (0.02 mmol) (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) and the mixture was heated at 140° C. for 2 h in a microwave tube. The mixture was filtered and purified by HPLC to yield 32 mg (28%) of the title compound. UPLC-MS: RT=1.32 min; m/z (ES+) 470.5 [MH+]; required MW=469.5. 1H-NMR (300 MHz, d6-DMSO): δ=9.88 (1H, s), 8.76 (1H, s), 8.73 (1H, d), 8.56 (1H, d), 8.13-8.04 (2H, m), 7.99 (2H, d), 7.88 (1H, t), 7.76 (1H, s), 7.72 (1H, d), 7.69 (1H, m), 3.31 (2H, t), 2.87 (1H, m), 2.06 (1H, m), 0.92 (2H, d), 0.69 (2H, m), 0.55 (2H, m) ppm.

reactant | 4-{6-bromo-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-3-yl}-N-cyclopropylbenzamide | 0.23 mmol, 100 mg | BrC=1N=C(C=2N(C1)C(=CN2)C2=CC=C(C(=O)NC1CC1)C=C2)NCC(C)C | C20H22BrN5O
reactant | pyridine-2-carboxamide | 0.7 mmol, 88 mg | N1=C(C=CC=C1)C(=O)N | C6H6N2O
reactant | caesium carbonate | 0.23 mmol, 76 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) | 0.02 mmol, 10.8 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 1,5-diphenylpenta-1,4-dien-3-one palladium | C1(=CC=CC=C1)C=CC(C=CC1=CC=CC=C1)=O.[Pd]
product | N-{3-[4-(cyclopropylcarbamoyl)phenyl]-8-[(2-methylpropyl)amino]imidazo[1,2-a]pyrazin-6-yl}pyridine-2-carboxamide | 32 mg, 28% | C1(CC1)NC(=O)C1=CC=C(C=C1)C1=CN=C2N1C=C(N=C2NCC(C)C)NC(=O)C2=NC=CC=C2 | C26H27N7O2
